US04877787
Synthesis of 2-tert.-butyl-4-chloro-5-(4-tert.-butyl-α-methylbenzylthio)-3(2H)-pyridazinone (Compound No. 70)
By conducting a procedure similar to that in Synthesis Example 3 except using 1.5 g of 2-tert.-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone, 10 ml of N,N-dimethylformamide, 1.0 g of anhydrous sodium carbonte and 1.4 g of 4-tert.-butyl-α-methylbenzyl chloride, there were obtained white needle-like crystals having the following physical properties (yield: 72.7%):

reactant | 2-tert.-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 1.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | sodium | 1.0 g | [Na] | Na
reactant | 4-tert.-butyl-α-methylbenzyl chloride | 1.4 g | C(C)(C)(C)C1=CC=C(C(C)Cl)C=C1 | C12H17Cl
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-tert.-butyl-4-chloro-5-(4-tert.-butyl-α-methylbenzylthio)-3(2H)-pyridazinone | yield: 72.7% | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SC(C1=CC=C(C=C1)C(C)(C)C)C | C20H27ClN2OS
